US07977477B2
A mixture of 4-Methoxy-5-(4-methyl-piperidin-1-ylmethoxy)-2-nitro-phenylamine (0.9 g, 3.0 mmol) and 10% palladium on carbon (90 mg) in MeOH (20 ml) was shaken under an atmosphere of hydrogen for 4 hours. The reaction mixture was filtered through GF/A paper directly into saturated EtOAc/HCl to give a purple solution, which was reduced in vacuo to yield 4-Methoxy-5-(4-methyl-piperidin-1-ylmethoxy)-benzene-1,2-diamine as a purple foam (0.8 g), (LC/MS (acidic method): Rt 0.34, [M+H]+ 266)

reactant | 4-Methoxy-5-(4-methyl-piperidin-1-ylmethoxy)-2-nitro-phenylamine | 3.0 mmol, 0.9 g | COC1=CC(=C(C=C1OCN1CCC(CC1)C)N)[N+](=O)[O-] | C14H21N3O4
catalyst | palladium on carbon | 90 mg | [Pd] | Pd
solvent | MeOH | 20 ml | CO | CH4O
product | 4-Methoxy-5-(4-methyl-piperidin-1-ylmethoxy)-benzene-1,2-diamine | 0.8 g | COC=1C=C(C(=CC1OCN1CCC(CC1)C)N)N | C14H23N3O2
